US06617346B1
Hydrogen chloride gas was passed through a solution of 3-hydroxymethyl-5-methoxymethyl-benzonitrile (720 mg, 4.063 mmol) in anhydrous ethanol (25 mL) at 0° C. After 1 h, hydrogen chloride gas was stopped and the reaction vessel was sealed with a septum. After stirring at room temperature for 1 d, the reaction vessel was cooled to 0° C. and the septum was removed. The solvent was evaporated in vacuo to afford ethyl 3-hydroxymethyl-5-methoxymethyl-benzimidate hydrochloride as a white solid (1.05 g, 100%).

reactant | Hydrogen chloride | Cl | ClH
reactant | 3-hydroxymethyl-5-methoxymethyl-benzonitrile | 4.063 mmol, 720 mg | OCC=1C=C(C#N)C=C(C1)COC | C10H11NO2
reactant | ethanol | 25 mL | C(C)O | C2H6O
product | ethyl 3-hydroxymethyl-5-methoxymethyl-benzimidate hydrochloride | 1.05 g, 100% | Cl.OCC=1C=C(C(OCC)=N)C=C(C1)COC | InChI=1S/C12H17NO3.ClH/c1-3-16-12(13)11-5-9(7-14)4-10(6-11)8-15-2;/h4-6,13-14H,3,7-8H2,1-2H3;1H
